US06562807B2
To 3-bromobenzoic acid (1.2 g, 5.7 mmol) in toluene (20 mL) was added triethylamine (0.91 mL, 6.5 mmol) and diphenoxyphosphoryl azide (1.3 mL, 6.2 mmol) and the mixture was heated to 100° C. while stirring. After 1 hour 4-[(4-cyclohex-1-enylphenylamino)methyl]-benzoic acid methyl ester (prepared similarly as described in example 1, step 1) (1.6 g, 5 mmol) was added and heating was continued for additional 1.5 hour. After cooling to room temperature the mixture was transferred with ethyl acetate (50 mL) to a separatory funnel. The organic mixture was washed with saturated aqueous sodium hydrogen carbonate (2×50 mL), backwash with ethyl acetate (50 mL). The organic phases were collected, dried (sodium sulphate) and the solvent removed in vacuo to yield a brown oil that was purified on silica column eluted with DCM to afford 700 mg of 4-[3-(3-bromophenyl)-1-(4-cyclohex-1-enylphenyl)ureidomethyl]benzoic acid methyl ester.

reactant | 3-bromobenzoic acid | 5.7 mmol, 1.2 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | triethylamine | 6.5 mmol, 0.91 mL | C(C)N(CC)CC | C6H15N
reactant | diphenoxyphosphoryl azide | 6.2 mmol, 1.3 mL | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | 4-[(4-cyclohex-1-enylphenylamino)methyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1=CCCCC1)=O | C21H23NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-[3-(3-bromophenyl)-1-(4-cyclohex-1-enylphenyl)ureidomethyl]benzoic acid methyl ester | 700 mg | COC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC=C1)Br)C1=CC=C(C=C1)C1=CCCCC1)=O | C28H27BrN2O3
